US06265575B1
Part A. 3-[3-Cyano-4-[(1-pyrrolidinyl)methyl]benzyl]-6-methoxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene
A suspension of 3-[3-bromo-4-[(1-pyrrolidinyl)]methyl]benzyl]-6-methoxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene (158 mg, 0.26 mmol) and copper(I) cyanide (40 mg) in 1-methyl-2-pyrrolidinone (3 mL) was allowed to stir at 200° C. under nitrogen for 5 h. The cooled reaction mixture was diluted with brine (50 mL) and extracted with EtOAc (50 mL×3). The combined organic layers were dried with sodium sulfate and concentrated under reduced pressure. Flash chromatography of the residue with Et3N:MeOH:EtOAc (5:5:90) afforded the product (64 mg, 44%).

reactant | 6-methoxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene | 0.26 mmol, 158 mg | COC=1C=CC2=C(SC(=C2)C2=CC=C(C=C2)OCCN2CCCC2)C1 | C21H23NO2S
reactant | copper(I) cyanide | 40 mg | [Cu]C#N
reactant | 1-methyl-2-pyrrolidinone | 3 mL | CN1C(CCC1)=O | C5H9NO
solvent | brine | 50 mL | [Cl-].[Na+].O
product | 3-[3-Cyano-4-[(1-pyrrolidinyl)methyl]benzyl]-6-methoxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene | 64 mg, 44% | C(#N)C=1C=C(CC=2C3=C(SC2C2=CC=C(C=C2)OCCN2CCCC2)C=C(C=C3)OC)C=CC1CN1CCCC1 | C34H37N3O2S
